US07273877B2
Step A: Preparation of 2,3,4,5,6-Pentafluorophenyl 4-(2-fluoro-4-iodoanilino)-1-methyl-6-oxo-1,6-dihydro-3-pyridinecarboxylate
4-(2-Fluoro-4-iodoanilino)-1-methyl-6-oxo-1,6-dihydro-3-pyridinecarboxylic acid (894 mg, 2.30 mmol) and pyridine (909 mg, 11.5 mmol) were dissolved in DMA (15 mL). To this mixture was added pentafluorophenyl trifluoroacetate (3.22 g, 11.5 mmol) then the solution was allowed to stir at R.T. for 2 h. The DMA solution was diluted with EtOAc (150 mL), which was washed sequentially with 1 M HCl (2×100 mL), water (100 mL), sat. NaHCO3 (2×100 mL), and brine (100 mL). The EtOAc fraction was then dried (Na2SO4) and the solvent removed under reduced pressure to yield a viscous oil which was purified by column chromatography on silica gel (50% EtOAc/PE as eluant). This afforded 2,3,4,5,6-pentafluorophenyl-4-(2-fluoro-4-iodoanilino)-1-methyl-6-oxo-1,6-dihydro-3-pyridinecarboxylate as a cream foam (1.22 g, 96%) which was used directly in subsequent steps. 1H NMR [(CD3)2SO, 400 MHz] δ 9.03 (s, 1H), 8.70 (s, 1H), 7.79 (dd, J=10.1, 1.9 Hz, 1H), 7.62 (br dd, J=8.4, 1.0 Hz, 1H), 7.29 (t, J=8.4 Hz, 1H), 5.36 (d, J=1.6 Hz, 1H), 3.45 (s, 3H). LCMS (APCI+) calcd for C19H9F6N2O3 555 (MH+), found 555.

reactant | 4-(2-Fluoro-4-iodoanilino)-1-methyl-6-oxo-1,6-dihydro-3-pyridinecarboxylic acid | 2.30 mmol, 894 mg | FC1=C(NC=2C(=CN(C(C2)=O)C)C(=O)O)C=CC(=C1)I | C13H10FIN2O3
reactant | pyridine | 11.5 mmol, 909 mg | N1=CC=CC=C1 | C5H5N
reactant | pentafluorophenyl trifluoroacetate | 11.5 mmol, 3.22 g | FC(C(=O)OC1=C(C(=C(C(=C1F)F)F)F)F)(F)F | C8F8O2
solvent | DMA | 15 mL | CC(=O)N(C)C | C4H9NO
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
product | 2,3,4,5,6-Pentafluorophenyl 4-(2-fluoro-4-iodoanilino)-1-methyl-6-oxo-1,6-dihydro-3-pyridinecarboxylate | FC1=C(NC=2C(=CN(C(C2)=O)C)C(=O)OC2=C(C(=C(C(=C2F)F)F)F)F)C=CC(=C1)I | C19H9F6IN2O3
